US04223136
A mixture of 10 parts of 2,3-dihydro-3oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile, 45 parts of iodomethane, and 95 parts of N,N-dimethylformamide is heated at 100° for 2 hours, then diluted with 100 parts of water. The precipitate which forms is filtered out, dried in vacuo, and recrystallized from ethanol to give 2,3-dihydro-2,5-dimethyl-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile melting at approximately 236°-237°.

reactant | 2,3-dihydro-3oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | O=C1C(=C2C(SC3=C(N2)C=CC=C3)=CN1)C#N | C12H7N3OS
reactant | iodomethane | IC | CH3I
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3-dihydro-2,5-dimethyl-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | CN1C=C2SC3=C(N(C2=C(C1=O)C#N)C)C=CC=C3 | C14H11N3OS
